US05322638
A mixture of 36.9 g of potassium hydroxide, 250 ml of water, 250 ml of ethanol and 37.2 g of ethyl cyano-[trans-4-(1E-pentenyl)cyclohexyl]acetate is heated to boiling for 3 days while stirring. After cooling the reaction mixture is diluted with 500 ml of water and washed with two 200 ml portions of diethyl ether. 220 ml of 10 percent (v/v) sulphuric acid are added dropwise to the aqueous phase. The precipitated product is extracted with three 200 ml portions of diethyl ether. The extract is washed with two 50 ml portions of water, dried over sodium sulphate, filtered and concentrated. Repeated recrystallization from benzene/hexane (vol. 1:1) gives pure [trans-4-(1E-pentenyl)cyclohexyl]malonic acid.

reactant | potassium hydroxide | 36.9 g | [OH-].[K+]
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | ethyl cyano-[trans-4-(1E-pentenyl)cyclohexyl]acetate | 37.2 g | C(#N)C(C(=O)OCC)[C@@H]1CC[C@H](CC1)\C=C\CCC | C16H25NO2
solvent | water | 500 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | [trans-4-(1E-pentenyl)cyclohexyl]malonic acid | C(=C\CCC)/[C@@H]1CC[C@H](CC1)C(C(=O)O)C(=O)O | C14H22O4
